US09302991B2
<Step-1>: 2-amino-N-(1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (single enantiomer)
The title compound is prepared in 64% yield (100 mg, a white solid) from 1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethanamine hydrochloride (120 mg, 0.4 mmol, Amine-21, single enantiomer) and 2-aminopyrimidine-4-carboxylic acid (62 mg, 0.4 mmol) by the similar manner in Step-1 of Example 8.

reactant | 1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethanamine hydrochloride | 0.4 mmol, 120 mg | Cl.FC(CCOC1=CC=C(C=N1)C(C)N)(F)F
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.4 mmol, 62 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-(1-(6-(3,3,3-trifluoropropoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 64% yield | NC1=NC=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCCC(F)(F)F | C15H16F3N5O2
